US07875645B2
a) Butyl-[1-(2-chloro-6-fluoro-phenyl)-meth-(E)-ylidene]-amine
To a solution of 59.8 g (377 mmol) 2-chloro-6-fluorobenzaldehyde in 250 ml toluene were added 41.0 ml (415 mmol) N-butylamine and 1.44 g (7.54 mmol) p-toluenesulphonic acid. The mixture was heated at reflux for 5 h. After cooling to room temperature, the mixture was diluted with toluene and washed sequentially with aqueous sodium bicarbonate solution, water and saturated brine. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo to afford 80.1 g (99% of the title compound as a dark brown oil which was used in the next step without further purification. MS (ISP): 216.2 ([M+H]+), 214.2 ([M+H]+).

reactant | 2-chloro-6-fluorobenzaldehyde | 377 mmol, 59.8 g | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | N-butylamine | 415 mmol, 41.0 ml | C(CCC)N | C4H11N
reactant | p-toluenesulphonic acid | 7.54 mmol, 1.44 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | Butyl-[1-(2-chloro-6-fluoro-phenyl)-meth-(E)-ylidene]-amine | 99% | C(CCC)/N=C/C1=C(C=CC=C1F)Cl | C11H13ClFN
